US07557114B2
(f) 4-Fluoro-6-trifluoromethyl-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A2(c) from 4-Fluoro-6-trifluoromethyl-2-trityl-2,3-dihydro-1H-isoindole and trifluoroacetic acid. Yellow oil. MS (m/e): 206.1 ([M+H+, 100%).

reactant | 4-Fluoro-6-trifluoromethyl-2-trityl-2,3-dihydro-1H-isoindole | FC1=C2CN(CC2=CC(=C1)C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21F4N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Fluoro-6-trifluoromethyl-2,3-dihydro-1H-isoindole | FC1=C2CNCC2=CC(=C1)C(F)(F)F | C9H7F4N
